### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Algebra): add ContinuousAlgHom

### PR DESCRIPTION
**Pull request by mariainesdff**
We add the type `ContinuousAlgHom` for continuous algebra homomorphisms.

Co-authored-by:  Antoine Chambert-Loir <antoine.chambert-loir@u-paris.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 1]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+  coe_injective'  _ _ h  := coe_injective (DFunLike.coe_injective h)
+
+instance continuousAlgHomClass :
+    ContinuousAlgHomClass (A →A[R] B) R A B where
+      map_mul f x y    := map_mul f.toAlgHom x y
+      map_one f        := map_one f.toAlgHom
+      map_add f        := map_add f.toAlgHom
+      map_zero f       := map_zero f.toAlgHom
+      commutes f r     := f.toAlgHom.commutes r
+      map_continuous f := f.2
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:153]:
```suggestion
  map_mul f x y    := map_mul f.toAlgHom x y
  map_one f        := map_one f.toAlgHom
  map_add f        := map_add f.toAlgHom
  map_zero f       := map_zero f.toAlgHom
  commutes f r     := f.toAlgHom.commutes r
  map_continuous f := f.2
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 2]
```diff
@@ -18,15 +18,19 @@ topological algebras.
...
+topological (semi)-rings which are continuous. The set of continuous algebra homomorphisms between
+the topological `R`-algebras `A` and `B` is denoted by `A →R[A] B`.
+
+TODO: add continuous algebra isomorphisms.
 
+-/
 
 open scoped Classical
-open Set TopologicalSpace Algebra
+open Set TopologicalSpace Algebra  BigOperators
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Algebra.lean:33]:
```suggestion
open Set TopologicalSpace Algebra BigOperators
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 3]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2021 Scott Morrison. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Scott Morrison
+Authors: Scott Morrison, AntoineChambert-Loir, María Inés de Frutos-Fernández
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Algebra.lean:4]:
```suggestion
Authors: Scott Morrison, Antoine Chambert-Loir, María Inés de Frutos-Fernández
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 4]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+section
 
 variable {R : Type*} [CommSemiring R]
 variable {A : Type u} [TopologicalSpace A]
 variable [Semiring A] [Algebra R A]
 
 #align subalgebra.has_continuous_smul SMulMemClass.continuousSMul
 
+end
+section
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Algebra.lean:98]: I don't understand what is happening here

Comment (mariainesdff) [reply Mathlib/Topology/Algebra/Algebra.lean:98]: We did not add this, but looking at the [git blame](https://github.com/leanprover-community/mathlib4/commit/350879f78bdda0673c10fb75895e4492b226b3d2), it seems that `Submodule.continuousSMul` was superseded by
`SMulMemClass.continuousSMul` and this line is recording the new align.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 5]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+
+variable (R : Type*) [CommSemiring R] [TopologicalSpace R] [TopologicalSemiring R]
+  (A : Type*) [Semiring A] [TopologicalSpace A] [TopologicalSemiring A]
+
+/-- Continuous algebra homomorphisms between algebras. We only put the type classes that are
+  necessary for the definition, although in applications `M` and `B` will be topological algebras
+  over the topological ring `R`. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:105]: Style comment here and throughout. I won't mark the other ones, but please find them.
```suggestion
necessary for the definition, although in applications `M` and `B` will be topological algebras
over the topological ring `R`. -/
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 6]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+structure ContinuousAlgHom (R : Type*) [CommSemiring R] (A : Type*) [Semiring A]
+    [TopologicalSpace A] (B : Type*) [Semiring B] [TopologicalSpace B] [Algebra R A] [Algebra R B]
+    extends A →ₐ[R] B where
+  cont : Continuous toFun := by continuity
+
+/-- `ContinuousAlgHomClass F R A B` asserts `F` is a type of bundled continuous `R`-agebra
+  homomorphisms `A → B`. -/
+class ContinuousAlgHomClass (F : Type*) (R : outParam (Type*)) [CommSemiring R]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:113]: I think we don't actually want this class. Instead, I believe we just want to use the separate `ContinuousMapClass F A B` and `AlgHomClass F R A B`. This isn't a problem because these are `Prop`-valued classes now that `FunLike` has been unbundled from the hom-class hierarchy. If you disagree, please continue the discussion here: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ContinuousMonoidHomClass.20etc/near/451600499

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 7]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+section Semiring
+
+variable {R} {A}
+variable [TopologicalSpace R] [TopologicalSemiring R]
+
+variable {B : Type*} [Semiring B] [TopologicalSpace B] [Algebra R A] [Algebra R B]
+
+attribute [coe] ContinuousAlgHom.toAlgHom
+/-- Coerce continuous algebra morphisms to algebra morphisms. -/
+instance AlgHom.coe : Coe (A →A[R] B) (A →ₐ[R] B) := ⟨toAlgHom⟩
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:134]: This creates two non-defeq coercions from `A →A[R] B` to `A →ₐ[R] B`. There's this one, that you're adding, but with the instance `continuousAlgHomClass` below (which we should definitely have), we get the one passing through `AlgHomClass`, namely [AlgHomClass.toAlgHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Hom.html#AlgHomClass.toAlgHom) via [AlgHomClass.coeTC](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Hom.html#AlgHomClass.coeTC). We have a preference for the latter, so please delete this one; this may require some re-jiggering of your code below.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 8]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+
+theorem coe_injective : Function.Injective ((↑) : (A →A[R] B) → A →ₐ[R] B) := by
+  intro f g H
+  cases f
+  cases g
+  congr
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:140]: You should just inline this into the `funLike` instance below.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 9]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+
+instance funLike : FunLike (A →A[R] B) A B where
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:142]:
```suggestion
instance : FunLike (A →A[R] B) A B where
```
We have a nice naming algorithm for instances now, so unless you have a special reason to name an instance (i.e., to reference it in another declaration, I would suggest not naming them).

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 10]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+  coe f := f.toAlgHom
+  coe_injective'  _ _ h  := coe_injective (DFunLike.coe_injective h)
+
+instance continuousAlgHomClass :
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:146]: idem
```suggestion
instance :
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 11]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+    ContinuousAlgHomClass (A →A[R] B) R A B where
+  map_mul f x y    := map_mul f.toAlgHom x y
+  map_one f        := map_one f.toAlgHom
+  map_add f        := map_add f.toAlgHom
+  map_zero f       := map_zero f.toAlgHom
+  commutes f r     := f.toAlgHom.commutes r
+  map_continuous f := f.2
+
+theorem coe_mk (f : A →ₐ[R] B) (h) : (mk f h : A →ₐ[R] B) = f := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:155]: I *think* you can mark this `simp` too, unless I'm missing something.
```suggestion
@[simp]
theorem coe_mk (f : A →ₐ[R] B) (h) : (mk f h : A →ₐ[R] B) = f := rfl
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 12]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+
+@[simp]
+theorem coe_mk' (f : A →ₐ[R] B) (h) : (mk f h : A → B) = f := rfl
+
+@[continuity]
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:160]: This will be the default soon, and hopefully we can delete `continuity`. If you still need the `continuity` tag for now, that's fine, just include both in that case.
```suggestion
@[fun_prop]
```
Also, it shouldn't actually be necessary, as it should just follow from the `ContinuousMapClass` instance, but I think having the explicit lemma does help `fun_prop`'s performance.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 13]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+theorem coe_copy (f : A →A[R] B) (f' : A → B) (h : f' = ⇑f) : ⇑(f.copy f' h) = f' := rfl
+
+theorem copy_eq (f : A →A[R] B) (f' : A → B) (h : f' = ⇑f) : f.copy f' h = f := DFunLike.ext' h
+
+protected theorem map_zero (f : A →A[R] B) : f (0 : A) = 0 := map_zero f
+
+protected theorem map_add (f : A →A[R] B) (x y : A) : f (x + y) = f x + f y := map_add f x y
+
+protected theorem map_smul (f : A →A[R] B) (c : R) (x : A) :
+    f (c • x) = c • f x := map_smul _ _ _
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:207]: The `..` syntax is a nice new feature in Lean 4. Also, stylistically, I think unless everything fits on one line, we generally prefer to have a new line for the body of the declaration (I realize this is not mentioned in the style guide, but I think it is relatively uniform across the library).
```suggestion
    f (c • x) = c • f x :=
  map_smul ..
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 14]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
...
+
+theorem map_smul_of_tower {R S : Type*} [CommSemiring S] [SMul R A] [Algebra S A] [SMul R B]
+    [Algebra S B] [MulActionHomClass (A →A[S] B) R A B] (f : A →A[S] B) (c : R) (x : A) :
+    f (c • x) = c • f x :=
+  map_smul f c x
+
+@[deprecated _root_.map_sum (since := "2023-09-16")]
+protected theorem map_sum {ι : Type*} (f : A →A[R] B) (s : Finset ι) (g : ι → A) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:215]: Why are you adding a deprecated lemma? Also, the date is wrong. Let's just exclude it entirely.

**Review by j-loreaux — COMMENTED** [review]
Thanks for doing this work! It can be boring and tedious, but it is valuable.

It would be nice to add a section about the relationship to `ContinuousLinearMap` via the coercion, although you'll need to add also a `ContinuousLinearMapClass` instance.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 15]
```diff
@@ -74,16 +78,471 @@ theorem algebraMapCLM_toLinearMap : (algebraMapCLM R A).toLinearMap = Algebra.li
   rfl
 #align algebra_map_clm_to_linear_map algebraMapCLM_toLinearMap
 
+/-- If `R` is a discrete topological ring, then any topological ring `S` which is an `R`-algebra
+  is also a topological `R`-algebra. -/
+instance DiscreteTopology.continuousSMul [TopologicalSemiring A] [DiscreteTopology R] :
+    ContinuousSMul R A := continuousSMul_of_algebraMap _ _ continuous_of_discreteTopology
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:84]: I think this belongs in `Topology.Algebra.MulAction`

File: Mathlib/Topology/Algebra/Algebra.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:106]: Done.

File: Mathlib/Topology/Algebra/Algebra.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:133]: done

File: Mathlib/Topology/Algebra/Algebra.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:78]: Yes, but some more work is needed to have it inserted there.
(And probably it can be generalized to the context of Topology.Algebra.MulAction)

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:78]: I tried to put it there, put that requires to add an import (Algebra) to this file, plus inclusion of other lemmas because `ContinuousSMul` follows from the continuity of `algebraMap`.

**Comment by j-loreaux** [comment]
It looks like there were a bunch of comments that never got addressed (probably because they were hidden in the fold). Can you address and resolve them please?

**Comment by AntoineChambert-Loir** [comment]
I'm surprised, I had the impression to have addressed all questions.

**Comment by AntoineChambert-Loir** [comment]
Now it should be OK, sorry.

File: Mathlib/Algebra/Algebra/Prod.lean [hunk 16]
```diff
@@ -94,4 +94,13 @@ def prodEquiv : (A →ₐ[R] B) × (A →ₐ[R] C) ≃ (A →ₐ[R] B × C) wher
...
   right_inv f := by ext <;> rfl
 
+/-- `Prod.map` of two algebra homomorphisms. -/
+def prodMap {D : Type*} [Semiring D] [Algebra R D] (f : A →ₐ[R] B) (g : C →ₐ[R] D) :
+    A × C →ₐ[R] B × D :=
+  { toRingHom := f.toRingHom.prodMap g.toRingHom
+    commutes' := fun r => by
+      simp only [toRingHom_eq_coe, RingHom.toMonoidHom_eq_coe, Prod.algebraMap_apply,
+        OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, MonoidHom.coe_coe, RingHom.coe_prodMap,
+        RingHom.coe_coe, Prod.map_apply, commutes] }
```
Comment (j-loreaux) [inline Mathlib/Algebra/Algebra/Prod.lean:104]: Is this not just `by simp`? or `by simp [commutes]`? That would be more readable unless it's much slower.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 17]
```diff
@@ -16,15 +16,19 @@ topological algebras.
...
 
-This is just a minimal stub for now!
+The topological closure of a subalgebra is still a subalgebra, which as an algebra is a
+topological algebra.
 
-The topological closure of a subalgebra is still a subalgebra,
-which as an algebra is a topological algebra.
--/
+In this file we define continuous algebra homomorphisms, as algebra homomorphisms between
+topological (semi)-rings which are continuous. The set of continuous algebra homomorphisms between
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:23]:
```suggestion
topological (semi-)rings which are continuous. The set of continuous algebra homomorphisms between
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 18]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+variable (R : Type*) [CommSemiring R] [TopologicalSpace R] [TopologicalSemiring R]
+  (A : Type*) [Semiring A] [TopologicalSpace A] [TopologicalSemiring A]
+
+/-- Continuous algebra homomorphisms between algebras. We only put the type classes that are
+necessary for the definition, although in applications `M` and `B` will be topological algebras
+over the topological ring `R`. -/
+structure ContinuousAlgHom (R : Type*) [CommSemiring R] (A : Type*) [Semiring A]
+    [TopologicalSpace A] (B : Type*) [Semiring B] [TopologicalSpace B] [Algebra R A] [Algebra R B]
+    extends A →ₐ[R] B where
+  cont : Continuous toFun := by continuity
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:93]: Can you add a "TODO: replace with `fun_prop` when that is stable"

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 19]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+
+instance : AlgHomClass (A →A[R] B) R A B where
+  map_mul f x y    := map_mul f.toAlgHom x y
+  map_one f        := map_one f.toAlgHom
+  map_add f        := map_add f.toAlgHom
+  map_zero f       := map_zero f.toAlgHom
+  commutes f r     := f.toAlgHom.commutes r
+
+@[simp]
+theorem toAlgHom_mk (f : A →A[R] B) : f.toAlgHom = f := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:122]: unless I'm misreading, this should be the name
```suggestion
theorem toAlgHom_eq_coe (f : A →A[R] B) : f.toAlgHom = f := rfl
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 20]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+
+@[simp, norm_cast]
+theorem toAlgHom_inj {f g : A →A[R] B} : (f : A →ₐ[R] B) = g ↔ f = g :=   by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:125]:
```suggestion
theorem coe_inj {f g : A →A[R] B} : (f : A →ₐ[R] B) = g ↔ f = g :=   by
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 21]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+@[simp]
+theorem coe_mk (f : A →ₐ[R] B) (h) : (mk f h : A →ₐ[R] B) = f := rfl
+
+@[simp]
+theorem coe_mk' (f : A →ₐ[R] B) (h) : (mk f h : A → B) = f := rfl
+
+@[simp, norm_cast]
+theorem coe_coe (f : A →A[R] B) : ⇑(f : A →ₐ[R] B) = f := rfl
+
+instance continuousMapClass : ContinuousMapClass (A →A[R] B) A B where
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:137]:
```suggestion
instance : ContinuousMapClass (A →A[R] B) A B where
```

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 22]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+    [Algebra S B] [MulActionHomClass (A →A[S] B) R A B] (f : A →A[S] B) (c : R) (x : A) :
+    f (c • x) = c • f x :=
+  map_smul f c x
+
+protected theorem map_sum {ι : Type*} (f : A →A[R] B) (s : Finset ι) (g : ι → A) :
+    f (∑ i in s, g i) = ∑ i in s, f (g i) :=
+  map_sum ..
+
+@[ext]
+theorem ext_ring [TopologicalSpace R] {f g : R →A[R] A} : f = g :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:195]: please add a docstring here.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 23]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+  toAlgHom_inj.mp (ext_id _ _ _)
+
+theorem ext_ring_iff [TopologicalSpace R] {f g : R →A[R] A} : f = g ↔ f 1 = g 1 :=
+  ⟨fun h => h ▸ rfl, fun _ => ext_ring ⟩
+
+/-- If two continuous algebra maps are equal on a set `s`, then they are equal on the closure
+of the `Submodule.span` of this set. -/
+theorem eqOn_closure_span [T2Space B] {s : Set A} {f g : A →A[R] B} (h : Set.EqOn f g s) :
+    Set.EqOn f g (closure (Submodule.span R s : Set A)) :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:204]: Is there a reason not to use `Algebra.adjoin` instead of `Submodule.span`? That seems the more natural result here.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 24]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+/-- If the submodule generated by a set `s` is dense in the ambient module, then two continuous
+algebra maps equal on `s` are equal. -/
+theorem ext_on [T2Space B] {s : Set A} (hs : Dense (Submodule.span R s : Set A))
+    {f g : A →A[R] B} (h : Set.EqOn f g s) : f = g :=
+  ext fun x => eqOn_closure_span h (hs x)
+
+/-- Under a continuous algebra map, the image of the `TopologicalClosure` of a submodule is
+contained in the `TopologicalClosure` of its image. -/
+theorem _root_.Submodule.topologicalClosure_map' [TopologicalSpace R] [ContinuousAdd A]
+    [ContinuousSMul R B] [ContinuousAdd B] (f : A →A[R] B) (s : Submodule R A) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:216]: Again, why do we prefer `Submodule` to `Subalgebra` here?

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 25]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+    s.topologicalClosure.map (f : A →ₐ[R] B) ≤ (s.map (f : A →ₐ[R] B)).topologicalClosure :=
+  image_closure_subset_closure_image f.continuous
+
+/-- Under a dense continuous algebra map, a submodule whose `TopologicalClosure` is `⊤` is sent to
+another such submodule.  That is, the image of a dense set under a map with dense range is dense.
+-/
+theorem _root_.DenseRange.topologicalClosure_map_submodule' [TopologicalSpace R] [ContinuousAdd A]
+    [ContinuousSMul R B] [ContinuousAdd B] {f : A →A[R] B}  (hf' : DenseRange f) {s : Submodule R A}
+    (hs : s.topologicalClosure = ⊤) : (s.map (f : A →ₐ[R] B)).topologicalClosure = ⊤ := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:225]: and here.

File: Mathlib/Topology/Algebra/Algebra.lean [hunk 26]
```diff
@@ -66,14 +70,451 @@ theorem algebraMapCLM_coe : ⇑(algebraMapCLM R A) = algebraMap R A :=
...
+theorem prod_apply (f₁ : A →A[R] B) (f₂ : A →A[R] C) (x : A) :
+    f₁.prod f₂ x = (f₁ x, f₂ x) :=
+  rfl
+
+variable {F : Type*}
+
+instance completeSpace_eqLocus {D : Type*} [UniformSpace D] [CompleteSpace D]
+    [Semiring D] [Algebra R D] [T2Space B]
+    [FunLike F D B] [AlgHomClass F R D B] [ContinuousMapClass F D B]
+    (f g : F) : CompleteSpace (LinearMap.eqLocus f g) :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Algebra.lean:344]: Why not `AlgHom.eqLocus`?

**Review by j-loreaux — COMMENTED** [review]
looking pretty good now. The main issue I see is that there is a bias towards submodules and linear maps instead of subalgebras and algebra homomorphisms. It's not clear to me why.

File: Mathlib/Topology/Algebra/Algebra.lean (hunk 26 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:361]: because it does not exist…

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Algebra/Algebra.lean:361]: Do you believe I should add it (that is, the equivalent for `Subalgebra` of the file  `Mathlib.Algebra.Module.Submodule.EqLocus`?)

**Comment by AntoineChambert-Loir** [comment]
You were right, it was appropriate to change from submodules to subalgebras.
Now, a new part of Subalgebra/Basic contains new material about `AlgHom.equalizer` that may deserve an independent PR (but that will be simpler if it can be avoided).
Moreover, I asked here
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/AlgHom.2Eequalizer.20.2F.20LinearMap.2EeqLocus/near/454500957
if AlgHom.equalizer should be renamed AlgHom.eqLocus.

**Comment by j-loreaux** [comment]
Looks so much nicer that it's phrased in terms of subalgebras now. Thanks! I appreciate the work on the `Subalgebra` API to get it across the line. The `AlgHomClass` usage is good, and as for renaming, that can always occur later if we want.

bors merge
